Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-5.33525976809
[H:1][C:2].[O:3]=[C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.54147235693
[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-6.1196193583700005
[H:1][C:2]([H:3])=[C:4]([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])=[C:4][C:11]([H:12])([H:13])[H:14],5.983761004219999
[C:1].[C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-5.941841533890001
[O:1][C:2]([H:3])([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:2]([H:3])([H:4])[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[O:1],4.1251969436300016
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.29238629809
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],2.04015330403
[C:10]([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],-6.18048347177
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.96812426888
[H:1][C:2]#[C:3][O:4][H:5].[O:6][C:7]#[C:8][H:9]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]#[C:8][H:9],0.0864299531595
[C:5]([O:6][H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10],-5.69256950959
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])[H:4],3.91148048117
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2],7.0091544973
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:14],1.78973651067
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11]>>[H:9].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]#[C:10][H:11],2.06964776207
[H:1].[O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.61390115747
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9],3.63598181422
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:14].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13],4.61763129412
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][H:7],4.405785820219999
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:10]([H:11])[H:12].[O:8][H:9],2.9202138359099994
[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:12](=[C:10][H:11])[H:13]>>[H:1][C:2]([H:3])[C:4]1([H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])=[C:12]1[H:13],-4.86299648057
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10][H:11],-3.87008586
[C:1]/[C:2]([H:3])=[C:4](\[H:5])[O:6][O:7]>>[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][O:7],4.3399579181400005
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C@:5]1([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-0.11656758764
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:5].[O:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],3.42196597342
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8],3.64933676857
